US05364871
A suspension of 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (1.6 g), (furfurylthio)acetic acid (0.98 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.2 g) and triethylamine (1.0 g) in N,N-dimethylformamide (20 ml) was stirred with cooling on an ice-water bath for 2.5 hours. The solvent was removed under the reduced pressure. The residue was washed with water and then chromatographed on a silica gel column eluting with a mixture of chloroform and methanol (10:1). The appropriate fractions was collected and the solvent was removed under the reduced pressure. The residue was suspended in water (20 ml) and the mixture was alkalized to pH 11 with a saturated aqueous potassium carbonate solution. The resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol and water afforded 2-(diaminomethyleneamino)-4-[2-(furfurylthio)acetylaminomethylthiazol-4-yl]thiazole (0.22 g).

reactant | 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 1.6 g | Cl.Cl.NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N
reactant | (furfurylthio)acetic acid | 0.98 g | C(C1=CC=CO1)SCC(=O)O | C7H8O3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(diaminomethyleneamino)-4-[2-(furfurylthio)acetylaminomethylthiazol-4-yl]thiazole | 0.22 g | NC(N)=NC=1SC=C(N1)C=1N=C(SC1)CNC(CSCC1=CC=CO1)=O | C15H16N6O2S3
